US05589478
To ethylene glycol (20 ml) is added sodium hydride (60% dispersion-type, 1.03 g), and thereto is added 4-tert-butyl-N-(6-chloropyrimidin-4-yl)benzenesulfonamide (1.66 g). The mixture is stirred at 60° C. for 20 hours. After cooling, the mixture is acidified with 10% hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate layer is washed, dried, and evaporated to remove the solvent. The residue is crystallized from ethyl acetate to give 4-tertbutyl-N-{6-(2-hydroxyethoxy)pyrimidin-4-yl}benzenesulfonamide (1.58 g).

reactant | sodium hydride | 1.03 g | [H-].[Na+]
reactant | 4-tert-butyl-N-(6-chloropyrimidin-4-yl)benzenesulfonamide | 1.66 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1)Cl | C14H16ClN3O2S
reactant | hydrochloric acid | Cl | ClH
reactant | ethylene glycol | 20 ml | C(CO)O | C2H6O2
product | 4-tertbutyl-N-{6-(2-hydroxyethoxy)pyrimidin-4-yl}benzenesulfonamide | 1.58 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1)OCCO | C16H21N3O4S
